US07629363B2
3,5-difluoro N˜1˜,N˜-1˜-dimethylbenzene-1,2-diamine
To a solution of 2,4,6-trifluoronitrobenzene (2.58 g, 0.0145 mol) in THF (20.0 ml) was added a solution of N,N-dimethylamine in THF (8.5 mL of 2M soln) and stirred for 45 min at 0° C. It was then stirred at room temperature for 30 min and concentrated to dryness. The resulting material was dissolved in EtOH (25 mL), added Pd/C (10%, 0.6 g) and hydrogenated at 50 psi for 4 h. The catalyst was removed by filtration, and the filtrate was concentrated to dryness under reduced pressure. The residue was partitioned between sod. bicarbonate (10%, 25 mL) and EtOAc (30 mL). The organic phase was washed with water, dried (Na2SO4), and concentrated to dryness to afford the title compound (1.3 g, 50%) as a dark colored solid: 1H NMR (CDCl3/400 MHz) δ6.52 (m, 2H), 3.64 (br, 2H), and 2.65 (s, 6H); ES-HRMS m/z 172.0772 (M+C8H10N2F2 requires 172.0810).

reactant | 2,4,6-trifluoronitrobenzene | 0.0145 mol, 2.58 g | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | N,N-dimethylamine | CNC | C2H7N
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
solvent | THF | 2M, 8.5 mL | C1CCOC1 | C4H8O
product | 3,5-difluoro N˜1˜,N˜-1˜-dimethylbenzene-1,2-diamine | 1.3 g, 50% | FC1=C(C(=CC(=C1)F)N(C)C)N | C8H10F2N2
